US05885986
0.90 g (0.00212 mol) of 3-(4-diallylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one in 40 ml of ethanol was treated with 0.45 ml (0.00215 mol) of 4.78N ethanolic hydrochloric acid. After stirring at room temperature for 15 minutes the solution obtained was completely freed from the solvents. The residue was recrystallized from ethanol/ether. There was obtained 0.78 g (80%) of 3-(4-diallylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (1:1) as white crystals; m.p. 152°-155°.

reactant | 3-(4-diallylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.00212 mol, 0.90 g | C(C=C)N(CC=C)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C22H22FN5OS
reactant | hydrochloric acid | 0.00215 mol, 4.78N, 0.45 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(4-diallylaminomethyl-thiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.78 g, 80% | Cl.C(C=C)N(CC=C)CC=1N=C(SC1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | InChI=1S/C22H22FN5OS.ClH/c1-4-8-27(9-5-2)11-16-13-30-21(25-16)20-19-12-26(3)22(29)17-10-15(23)6-7-18(17)28(19)14-24-20;/h4-7,10,13-14H,1-2,8-9,11-12H2,3H3;1H
